US05840732
ii) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 0.17 g (0.59 mmol) of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione, 0.13 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 0.19 g (84.8%, yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 0.59 mmol, 0.17 g | C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C18H21N3O3S
reactant | hydrochloric acid ethyl acetate | 4N, 0.13 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C18H21N3O3S.ClH/c1-2-3-8-15-17(22)21(18(23)25-15)11-4-5-13-24-14-7-6-10-20-12-9-19-16(14)20;/h6-10,12H,2-5,11,13H2,1H3;1H
